US06169091A
4-(4-Benzyloxyanilino)-6-(N-methylimidazol-2-yl)pyrido[3,4-d]pyrimidine
Prepared according to Procedure B from 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine and 2-(tri-n-butylstannyl)-N-methylimidazole (prepared according to the published method: J. Organometallic Chem., (1989), 61); δH [2H6]-DMSO 10.35 (1H,s), 9.17 (1H,s), 9.13 (1H,s), 8.65 (1H, s), 7.79 (2H,d), 7.32-7.55 (6H,m), 7.13 (1H,s), 7.09 (2H,d), 5.16 (2H,s), 4.10 (3H,s); m/z (M+1)+409.

reactant | 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)Cl)C=C1 | C20H15ClN4O
reactant | 2-(tri-n-butylstannyl)-N-methylimidazole | C(CCC)[Sn](C=1N(C=CN1)C)(CCCC)CCCC
product | 4-(4-Benzyloxyanilino)-6-(N-methylimidazol-2-yl)pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)C=3N(C=CN3)C)C=C1 | C24H20N6O
